US04460777
Methanol (4.7 L), 8-bromooctanoic acid (0.912 kg) and sulfuric acid (0.912 L) were charged into a suitable reactor and the mixture was heated at reflux temperature for 5 hours and was then stirred at ambient temperature overnight. The solvent was removed at reduced (3 mm Hg) pressure and the oily residue was dissolved in ether (4 L). The solution was washed with water (3×2 L), saturated NaHCO3 solution (1 L) and brine (1 L). The ether portion was dried (MgSO4) and filtered to remove dessicant. Evaporation of solvent followed by distillation of the crude oil gave methyl 8-bromooctanoate, b.p. 73°-76°/0.05 mm Hg, nD23 1.4614.

reactant | 8-bromooctanoic acid | 0.912 kg | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | sulfuric acid | 0.912 L | S(O)(O)(=O)=O | H2O4S
reactant | Methanol | 4.7 L | CO | CH4O
product | methyl 8-bromooctanoate | BrCCCCCCCC(=O)OC | C9H17BrO2
